US09358222B2
Synthesis of 4-chloro-3-(4-chlorophenyl)-3-hydroxy-2-(4-nitrobenzyl)isoindolin-1-one (NU8398)
The named compound was synthesised from a mixture of 3-chloro-2-(4-chlorobenzoyl)benzoic acid and 6-chloro-2-(4-chlorobenzoyl)benzoic acid (2.15 g, 7.28 mmol) and 4-nitrobenzylamine hydrochloride (1.51 g, 8.01 mmol) using General Procedure B, purified by chromatography (Biotage SP4; 10%-20% EtOAc/petrol) and obtained as a white solid (1.96 g, 63%).

reactant | 3-chloro-2-(4-chlorobenzoyl)benzoic acid | ClC=1C(=C(C(=O)O)C=CC1)C(C1=CC=C(C=C1)Cl)=O | C14H8Cl2O3
reactant | 6-chloro-2-(4-chlorobenzoyl)benzoic acid | 7.28 mmol, 2.15 g | ClC1=CC=CC(=C1C(=O)O)C(C1=CC=C(C=C1)Cl)=O | C14H8Cl2O3
reactant | 4-nitrobenzylamine hydrochloride | 8.01 mmol, 1.51 g | Cl.[N+](=O)([O-])C1=CC=C(CN)C=C1
product | 4-chloro-3-(4-chlorophenyl)-3-hydroxy-2-(4-nitrobenzyl)isoindolin-1-one | 1.96 g, 63% | ClC1=C2C(N(C(C2=CC=C1)=O)CC1=CC=C(C=C1)[N+](=O)[O-])(O)C1=CC=C(C=C1)Cl | C21H14Cl2N2O4
